US07893099B2
Step 6: 3-(2-Chloro-benzenesulfonyl)-cyclopentanecarboxylic acid cyanomethyl-amide
A solution of 3-(2-chloro-benzenesulfonyl)-cyclopentanecarboxylic acid (0.25 g, 1.0 eq) in DMF (4.0 mL) was treated with DIPEA (0.22 mL, 1.5 eq) and HATU (0.39 g, 1.2 eq). The mixture was stirred at RT for 15 min, then a solution of aminoacetonitrile hydrochloride (0.12 g, 1.5 eq) and DIPEA (0.22 mL, 1.5 eq) in DMF (1 mL) was added. The resulting solution was stirred at RT overnight and then purified by preparative HPLC. The title compound was obtained as a light yellow gum (0.10 g, 37%). MS (ESI): m/z=327.1 [M+H]+.

reactant | 3-(2-chloro-benzenesulfonyl)-cyclopentanecarboxylic acid | 0.25 g, 1.0 eq | ClC1=C(C=CC=C1)S(=O)(=O)C1CC(CC1)C(=O)O | C12H13ClO4S
reactant | DIPEA | 0.22 mL, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.39 g, 1.2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | aminoacetonitrile hydrochloride | 0.12 g, 1.5 eq | Cl.NCC#N
reactant | DIPEA | 0.22 mL, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-(2-Chloro-benzenesulfonyl)-cyclopentanecarboxylic acid cyanomethyl-amide | C(#N)CNC(=O)C1CC(CC1)S(=O)(=O)C1=C(C=CC=C1)Cl | C14H15ClN2O3S
